US05849755
3-(5-Chloro-2-methoxybenzamido)-2,2-dimethyl-6-(methylaminocarbonylaminosulfonyl)-7-methoxychroman
1.23 g (7.5 mmol) of N-methyltrichloroacetamide were added to 2.27 g (5 mmol) of 3-(5-chloro-2-methoxybenzamido)-2,2-dimethyl-6-sulfamoyl-7-methoxychroman and 0.5 g (12.5 mmol) of finely powdered sodium hydroxide. After the mixture had been stirred at 80° C. for half an hour, it was introduced into ice/water, clarified with charcoal and acidified to pH 1. The precipitate was filtered off with suction, dried and recrystallized from ethanol/DMF. The product had a melting point of 248° C.

reactant | N-methyltrichloroacetamide | 7.5 mmol, 1.23 g | CNC(C(Cl)(Cl)Cl)=O | C3H4Cl3NO
reactant | 3-(5-chloro-2-methoxybenzamido)-2,2-dimethyl-6-sulfamoyl-7-methoxychroman | 5 mmol, 2.27 g | ClC=1C=CC(=C(C(=O)NC2C(OC3=CC(=C(C=C3C2)S(N)(=O)=O)OC)(C)C)C1)OC | C20H23ClN2O6S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | charcoal | C | CH4
product | 3-(5-Chloro-2-methoxybenzamido)-2,2-dimethyl-6-(methylaminocarbonylaminosulfonyl)-7-methoxychroman | ClC=1C=CC(=C(C(=O)NC2C(OC3=CC(=C(C=C3C2)S(=O)(=O)NC(=O)NC)OC)(C)C)C1)OC | C22H26ClN3O7S
